US06858651B2
A solution of 420 mg (1.22 mmol) of trans-Methanesulfonic acid 3-[4-(tert-butoxycarbonyl-methyl-amino)-cyclohexyl]-prop-2-ynyl ester in 4 ml DMA was treated at 0° C. with 0.234 ml (2.43 mmol) of N-allylmethylamine and stirred at RT for 16 h. The solution was concentrated and the residual oil was extracted with aqueous sat. NaHCO3/Et2O (3×). The organic phases were washed with aqueous 10% NaCl solution and dried over Na2SO4 to yield after flash column chromatography on silica gel with hexane/EtOAc (2:1) 355 mg (91%) trans-{4-[3-(Allyl-methyl-amino)-prop-1-ynyl]-cyclohexyl}-methyl-carbamic acid tert-butyl ester, MS: 321 (MH+).

reactant | trans-Methanesulfonic acid 3-[4-(tert-butoxycarbonyl-methyl-amino)-cyclohexyl]-prop-2-ynyl ester | 1.22 mmol, 420 mg | C(C)(C)(C)OC(=O)N([C@@H]1CC[C@H](CC1)C#CCOS(=O)(=O)C)C | C16H27NO5S
reactant | N-allylmethylamine | 2.43 mmol, 0.234 ml | C(C=C)CN | C4H9N
reactant | DMA | 4 ml | CC(=O)N(C)C | C4H9NO
product | trans-{4-[3-(Allyl-methyl-amino)-prop-1-ynyl]-cyclohexyl}-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)C#CCN(C)CC=C)=O | C19H32N2O2
